US08217043B2
c) 4-Chloro-1-[(2-methoxycarbonyl-acetyl)-pyridin-3-ylmethyl-amino]-1H-pyrrole-2-carboxylic acid methyl ester
Prepared according to the acylation condition used in Example 2 step f) from 4-chloro-1-[(pyridin-3-ylmethyl)-amino]-1H-pyrrole-2-carboxylic acid methyl ester and chlorocarbonyl-acetic acid methyl ester (1.5 eq.). 1H NMR (CDCl3, δ in ppm): 8.55 (dd, 1H, J=1.8 Hz, 4.8 Hz), 8.34 (1H, J=2.2 Hz), 7.57 (m, 1H), 6.84 (d, 1H, J=2.2 Hz), 6.50 (d, 1.8 Hz), 5.29 (d, 1H, J=14.6 Hz), 4.45 (d, J=14.6 Hz), 3.76 (s, 3H), 3.69 (s, 3H), 3.19 (m, 2H).

reactant | 4-chloro-1-[(pyridin-3-ylmethyl)-amino]-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(C1)Cl)NCC=1C=NC=CC1 | C12H12ClN3O2
reactant | chlorocarbonyl-acetic acid methyl ester | 1.5 eq. | COC(CC(=O)Cl)=O | C4H5ClO3
product | 4-Chloro-1-[(2-methoxycarbonyl-acetyl)-pyridin-3-ylmethyl-amino]-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(C1)Cl)N(CC=1C=NC=CC1)C(CC(=O)OC)=O | C16H16ClN3O5
